US09254284B2
5-Amino-2-fluoro-4-methylbenzonitrile (12 g, 80 mmol) was dissolved in anhydrous N,N-dimethylformamide (160 mL) under nitrogen, and potassium carbonate (13.27 g, 96 mmol) and potassium iodide (14.61 g, 88 mmol) were added as solids with stirring. The reaction was stirred for 5 minutes at room temperature and then bromomethyl cyclopropylketone (20.24 mL, 180 mmol) was added. The reaction mixture was heated to 60° C. for 3 hours, and then the solvents removed under reduced pressure. The residue was dissolved in EA (400 mL) and washed with 400 mL of water. The organic layer was dried over magnesium sulfate, and solvent was removed under reduced pressure. The residue was re-dissolved in a minimum amount of EA, and hexanes were added to bring the solution to 3:1 hexanes: EA by volume. The product precipitated out of solution and was collected by filtration to provide 5-(2-cyclopropyl-2-oxoethylamino)-2-fluoro-4-methylbenzonitrile (14.19 g, 61.2 mmol). LC/MS (m/z: 233, M+1)

reactant | 5-Amino-2-fluoro-4-methylbenzonitrile | 80 mmol, 12 g | NC=1C(=CC(=C(C#N)C1)F)C | C8H7FN2
reactant | potassium carbonate | 96 mmol, 13.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 88 mmol, 14.61 g | [I-].[K+]
reactant | bromomethyl cyclopropylketone | 180 mmol, 20.24 mL | BrCC(=O)C1CC1 | C5H7BrO
solvent | N,N-dimethylformamide | 160 mL | CN(C=O)C | C3H7NO
product | 5-(2-cyclopropyl-2-oxoethylamino)-2-fluoro-4-methylbenzonitrile | 61.2 mmol, 14.19 g | C1(CC1)C(CNC=1C(=CC(=C(C#N)C1)F)C)=O | C13H13FN2O
